US05536752
2-(4-Fluorophenylacetoxy)-4'-(methylthio)isobutyrophenone
To a solution of 72 mg (0.34 mmol) 2-hydroxy-4'-(methylthio)isobutyrophenone in 1.7 mL of CH2Cl2 were added 0.2 mL of pyridine and 140 mg (0.81 mmol) of 4-fluorophenylacetyl chloride. The mixture was stirred at room temperature overnight and then quenched with NH4OAc buffer. The product was extracted with EtOAc, dried over MgSO4 and concentrated. The crude product was purified by flash chromatography eluting with 8:1 hexane/EtOAc to give 95 mg of the title product.

reactant | 2-hydroxy-4'-(methylthio)isobutyrophenone | 0.34 mmol, 72 mg | OC(C(=O)C1=CC=C(C=C1)SC)(C)C | C11H14O2S
reactant | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-fluorophenylacetyl chloride | 0.81 mmol, 140 mg | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
solvent | CH2Cl2 | 1.7 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Fluorophenylacetoxy)-4'-(methylthio)isobutyrophenone | 95 mg | FC1=CC=C(C=C1)CC(=O)OC(C(=O)C1=CC=C(C=C1)SC)(C)C | C19H19FO3S
